US08710219B2
Step i: 6-Methoxypyridin-3-ylboronic acid (R-3-1):
To a solution of compound 303 (20 g, 0.11 mole) in anhydrous THF (180 ml) was added dropwise n-BuLi (59 mL, 2M in THF) at −78° C., the resulting mixture was stirred for 1 h. Triisopropyl borate (37 mL) was added at −78° C. and the reaction mixture was warmed to room temperature and continued to stir overnight. TLC (hexanes/ethyl acetate=5:1) showed reaction complete. The mixture was adjusted pH to 3-4 with 4N HCl (90 ml). The precipitate was collected by filtration to afford crude compound R-3-1 (21 g, 128%). The crude compound R-3-1 (21 g) was dissolved in water (200 ml) and the solution was adjusted pH to 8-9 with concentrated ammonia solution, the precipitate was collected by filtration to afford the pure title compound R-3-1 as a white solid. (11 g, 67%). LCMS (m/z): 154.1 [M+1]+. 1H NMR (400 MHz, DMSO-d6): δ 3.86 (s, 3H), 6.76 (d, J=8.4 Hz, 1H), 7.99 (dd, J=8.4 Hz, 2.0 Hz, 1H), 8.05 (br, 2H), 8.52 (d, J=2.0 Hz, 1H).

reactant | n-BuLi | 2M, 59 mL | [Li]CCCC
reactant | Triisopropyl borate | 37 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 4N, 90 ml | Cl | ClH
reactant | ammonia | N | H3N
reactant | THF | 180 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 6-Methoxypyridin-3-ylboronic acid | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
